US04024183
1-(3-Isopropylthioureido)-3-(3-p-chlorophenylureido)-benzene (1.5 crystallized g.) is dissolved in ethanol (100 ml.) saturated with ammonia gas, and the solution stirred for 24 hours at room temperature with yellow mercuric oxide (1.02 g.). The mixture is boiled for 1/2 hour to coagulate the fine precipitate, and is filtered hot. The solid is washed thoroughly with 3 × 50 ml. portions of boiling ethanol, and the filtrate and washings are combined and evaporated to dryness. The remaining gum is dissolved in methanol (10 ml.) and saturated ethereal hydrogen chloride (3 ml.) is added followed by dry ether (150 ml.). The precipitated oil rapidly solidifies, is filtered off and crystallised from ethanol to give 1-(3-isopropylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride, m.p. 224°-225° C.

reactant | 1-(3-Isopropylthioureido)-3-(3-p-chlorophenylureido)-benzene | C(C)(C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=S | C17H19ClN4OS
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(3-isopropylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride | Cl.C(C)(C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=N | InChI=1S/C17H20ClN5O.ClH/c1-11(2)20-16(19)21-14-4-3-5-15(10-14)23-17(24)22-13-8-6-12(18)7-9-13;/h3-11H,1-2H3,(H3,19,20,21)(H2,22,23,24);1H
